US06140338
Synthesis of N-[1-(cyclooctylmethyl)piperidin-4-yl]phenoxazine-9-carboxamide
15 ml of 10% HCl-methanol solution and 15 ml of diethyl ether were added to 1.66 g of 4-t-butoxycarbonylamino-1-cyclooctylmethylpiperidine, followed by stirring for 18 hours. The solvent was distilled off under reduced pressure, the obtained residue was washed with diethyl ether, and 1.44 g of the title compound as a white solid was obtained.

reactant | HCl methanol | 15 ml | Cl.CO
reactant | 4-t-butoxycarbonylamino-1-cyclooctylmethylpiperidine | 1.66 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC1CCCCCCC1 | C19H36N2O2
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | N-[1-(cyclooctylmethyl)piperidin-4-yl]phenoxazine-9-carboxamide | 1.44 g | C1(CCCCCCC1)CN1CCC(CC1)NC(=O)C=1C=CC=C2OC=3C=CC=CC3NC12 | C27H35N3O2
